US06498254B1
Preparation of 2-[[(3,5-dinitrophenyl)methyl]sulfonyl]pyridine-N-oxide
To 14.0 g (0.043 mole) of 2-[[(3,5-dinitrophenyl)methyl]sulfinyl]-pyridine-N-oxide in 35 ml of glacial acetic acid was added, dropwise over 0.5 hours with stirring, 8.2 g of 40% peracetic acid in acetic acid. After addition was complete, the mixture was heated to 70° C. for 4.5 hours. The mixture was cooled to room temperature, and then an additional 2.0 g of 40% peracetic acid was added, and the mixture heated to 45-50° C. for three hours while stirring. The mixture became quite thick, so 20 ml of glacial acetic acid was added to enable better stirring and heating was continued at 70° C. for one more hour, followed by stirring at 30° C. overnight. Workup of a small aliquot indicated some sulfoxide to still be present, so heating was continued at 65-70° C. for 4 more hours. The excess peracetic acid was then destroyed by adding 100 ml of water and sodium bisulfite. After neutralizing the mixture to pH 4 with potassium carbonate, the white solid was filtered off, and then dried under vacuum. Yield was 11.5 g or 79%, having a melting point of 198-201° C. This material was recrystallized from ethanol to give a white solid, melting point 202-204° C. Infrared and NMR spectra were consistent with the proposed structure.

reactant | 2-[[(3,5-dinitrophenyl)methyl]sulfinyl]-pyridine-N-oxide | 0.043 mole, 14.0 g | [N+](=O)([O-])C=1C=C(C=C(C1)[N+](=O)[O-])CS(=O)C1=[N+](C=CC=C1)[O-] | C12H9N3O6S
reactant | peracetic acid | 8.2 g | C(C)(=O)OO | C2H4O3
reactant | peracetic acid | 2.0 g | C(C)(=O)OO | C2H4O3
solvent | acetic acid | 35 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 2-[[(3,5-dinitrophenyl)methyl]sulfonyl]pyridine-N-oxide | [N+](=O)([O-])C=1C=C(C=C(C1)[N+](=O)[O-])CS(=O)(=O)C1=[N+](C=CC=C1)[O-] | C12H9N3O7S
